US05929067
(b1) (1-Cyanomethyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester
5.2 ml (82.9 mmol) of methyl iodide is added to a solution of 18.5 g (54.9 mmol) of (1-Cyanomethyl-2,2-diphenyl-ethyl)-carbamic acid tert-butyl ester in 100 ml of N,N-dimethyl-formamide, and the mixture is cooled to 0° C. 2.6 g (60.6 mmol) of 55% sodium hydride is added in several portions. After 1 h the mixture is warmed to RT and 75 ml of N,N-dimethylformamide is added for further dilution. After a total of 3.5 h the reaction mixture is poured into water and extracted with ethyl acetate. The organic phase is washed with water and brine, dried over sodium sulfate and concentrated by evaporation. The title compound is obtained in the form of an orange-brown mass. TLC: ethyl acetate/hexane (1:4) Rf =0.35; Rt (HPLC)=20.0 min; 1H-NMR (300 MHz, CDCl3, RT) d 7.39-7.17 (m, 10H), 5.60-5.15 (m, 1H), 4.36-3.96 (m, 1H), 2.73/2.68 (s, 3H), 2.05 (m, 2H), 1.55/1.41 (s, 9H).

reactant | methyl iodide | 82.9 mmol, 5.2 ml | CI | CH3I
reactant | (1-Cyanomethyl-2,2-diphenyl-ethyl)-carbamic acid tert-butyl ester | 54.9 mmol, 18.5 g | C(C)(C)(C)OC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)CC#N)=O | C21H24N2O2
reactant | sodium hydride | 60.6 mmol, 2.6 g | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethyl-formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | (1-Cyanomethyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C(C(C1=CC=CC=C1)C1=CC=CC=C1)CC#N)=O | C22H26N2O2
